US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminothiocarbonyl]-4-(2-ethylphenyl)piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)thiocarbamate and 1-(2-ethylphenyl)piperazine were reacted by the same way with the example 63 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)thiocarbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=S | C16H13N3O2S
reactant | 1-(2-ethylphenyl)piperazine | C(C)C1=C(C=CC=C1)N1CCNCC1 | C12H18N2
product | 1-[(2-Methoxyquinoxalin-3-yl)aminothiocarbonyl]-4-(2-ethylphenyl)piperazine | yield: 60.7% | COC1=NC2=CC=CC=C2N=C1NC(=S)N1CCN(CC1)C1=C(C=CC=C1)CC | C22H25N5OS
